US05719278
5-(4-Nitrobenzyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine
To a mixture of 0.5 g of 5-(4-nitrobenzoyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine, O-acetate in 10 ml of methanol-water (8:2) is added KHCO3 and the mixture stirred at room temperature overnight. The mixture is concentrated under vacuum, diluted with 10 ml of water and extracted with ethyl acetate. The extract is dried (Na2SO4) and the solvent removed to give the product as a solid. Chromatography on silica gel with ethyl acetate as solvent gives crystals, m.p. 182°-185° C.

reactant | 5-(4-nitrobenzoyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine | 0.5 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)O)N=CC=C3)C=C1 | C16H15N3O4
solvent | methanol water | 10 ml | CO.O
product | 5-(4-Nitrobenzyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine | [N+](=O)([O-])C1=CC=C(CN2C3=C(C(CCC2)O)N=CC=C3)C=C1 | C16H17N3O3
